US06949579B2
N-[6-(4-ethylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide
612 mg of 4-ethylphenylboronic acid, 1.24 g of caesium fluoride, 13.5 mg of palladium acetate and finally 31 mg of 2-dicyclohexylphosphine-2-(N,N-dimethylamino)biphenyl are added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 25, in 30 cm3 of dioxane, and the mixture is then refluxed for 16 hours. The reaction medium is diluted with 50 cm3 of ethyl acetate and 50 cm3 of water, filtered through a sinter funnel packed with Celite and the filtrate is concentrated to dryness under reduced pressure (2 kPa; 50° C.). The work-up and the purification are performed by analogy with Example 41. The product, which is still impure, is repurified by HPLC (Hypurity; C18, 5 μm column; length 50 mm, diameter 21 mm, eluent: acetonitrile/water containing 0.05% trifluoroacetic acid; flow rate 10 cm3/min). After concentrating the fractions containing the expected product and drying (90 Pa; 45° C.), 240 mg of N-[6-(4-ethylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a yellow oil. The product is used directly in the next step.

reactant | 4-ethylphenylboronic acid | 612 mg | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
solvent | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 50 cm3 | O | H2O
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-(4-ethylphenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | C(C)C1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C25H35N3O2Si
